US04376771
4.0 g (14.8 millimoles) of β-(p-chloroacetylaminobenzoyl)-propionic acid are refluxed with 0.74 g (14.8 millimoles) of hydrazine hydrate and 70 ml of ethanol for 3 hours. After filtering off the product at 10° C. and drying it under reduced pressure at 50° C., 3.3 g (84% of theory) of 6-(p-chloroacetylaminophenyl)-4,5-dihydropyridaz-3-one are obtained as pale yellow crystals (identical with the compound from Example 1, according to its melting point and infrared and NMR spectra).

reactant | β-(p-chloroacetylaminobenzoyl)-propionic acid | 14.8 millimoles, 4.0 g | ClCC(=O)NC1=CC=C(C(=O)CCC(=O)O)C=C1 | C12H12ClNO4
reactant | hydrazine hydrate | 14.8 millimoles, 0.74 g | O.NN
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 6-(p-chloroacetylaminophenyl)-4,5-dihydropyridaz-3-one | 3.3 g, 84% | ClCC(=O)NC1=CC=C(C=C1)C=1CCC(NN1)=O | C12H12ClN3O2
